US05021436
A solution of 2-chloromethyl-3-carboethoxy-4-(m-nitrophenyl)-5-nitro-6-methyl-1,4-dihydropyridine (1.5 g) in EtOH (15 ml) is added dropwise at 0° C. under N2 atmosphere to a solution of cysteamine hydrochloride (0.9 g) and sodium hydroxide (0.32 g) in EtOH (45 ml). After two hours the solution is acidified (pH ≃ 4) with AcOH, evaporated under reduced pressure and the residue is dissolved in water (50 ml) and extracted with Et2O (2×20 ml). The ethereal extractions are discarded, the water layer is made basic with NaHCO3 and extracted with AcOEt (2×20 ml); the organic phase is washed with water (3×10 ml), dried (Na2SO4), added to a solution of fumaric acid (0.45 g) in MeOH (15 ml), and evaporated to dryness. The residue is crystallized from AcOEt to give 1.9 g of 2-[(2-aminoethyl)thio]methyl-3-carboethoxy-4-(m-nitrophenyl)-5-nitro-6-methyl-1,4-dihydropyridine fumarate (C18H22N4O6S.C4H4O4), m.p. 182°-185° C.

reactant | 2-chloromethyl-3-carboethoxy-4-(m-nitrophenyl)-5-nitro-6-methyl-1,4-dihydropyridine | 1.5 g | ClCC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])[N+](=O)[O-])C | C16H16ClN3O6
reactant | cysteamine hydrochloride | 0.9 g | Cl.NCCS
reactant | sodium hydroxide | 0.32 g | [OH-].[Na+]
reactant | EtOH | 15 ml | CCO | C2H6O
reactant | EtOH | 45 ml | CCO | C2H6O
product | 2-[(2-aminoethyl)thio]methyl-3-carboethoxy-4-(m-nitrophenyl)-5-nitro-6-methyl-1,4-dihydropyridine fumarate | 1.9 g | C(\C=C\C(=O)O)(=O)O.NCCSCC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])[N+](=O)[O-])C | InChI=1S/C18H22N4O6S.C4H4O4/c1-3-28-18(23)16-14(10-29-8-7-19)20-11(2)17(22(26)27)15(16)12-5-4-6-13(9-12)21(24)25;5-3(6)1-2-4(7)8/h4-6,9,15,20H,3,7-8,10,19H2,1-2H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
